US04458075
4-Benzamido-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-piperidine
A mixture of 3.7 g of 4-benzamidopiperidine, 4.3 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8 g of sodium bicarbonate and a few crystals potassium iodide in 30 ml of dimethylformamide was stirred at 55° C. for 2.5 hrs. The reaction mixture was cooled and concentrated to an oil. The oil was stirred with water and extracted with ether/ethyl acetate. The organic extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. Crystallization of the residue with isopropyl ether gave 1.2 g (17%) of product, mp 150°-151° C.

reactant | 4-benzamidopiperidine | 3.7 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.3 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Benzamido-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-piperidine | 1.2 g, 17% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F | C22H24FN3O2
